US04965270
A solution of 2-amino-9-(1,4-dihydroxybut-2-oxy)purine (100 mg, 0.42 mmol), 4-dimethylaminopyridine (4 mg) and acetic anhydride (0.14 ml, 1.5 mmol) in N,N-dimethylformamide (3 ml) was stirred at room temperature for 15 minutes and methanol (0.5 ml) was then added. The solvent was removed and the residue was partitioned between chloroform (5 ml) and aqueous sodium bicarbonate (3 ml). The aqueous layer was extracted with chloroform again (5 ml) and the combined organic extracts were dried (magnesium sulphate) and the solvent removed. The residue was purified by column chromatography on silica gel eluting with chloroform-methanol (30:1). Trituration with hexane-ethyl acetate afforded 2-amino-9-(1,4-diacetoxybut-2-oxy)purine as white crystals (112 mg, 83%), m p. 123°-125° C.; IR: υmax (KBr) 3400, 3310, 3190, 1735, 1640, 1615, 1585, 1505, 1470 and 1430 cm-1 ; 1H NMR: δH [(CD3)2SO] 2.0-2.5 (8H, m, 3'-H and 2×CH3), 4.21 (1H, dd, J=12.7 Hz and 5.8 Hz, 1'-H), 4.32 (1H, dt, Jd =10.9 Hz and Jt =5.4 Hz, 4'-H), 4.54 (1H, dd, J=12.9 Hz and 2.8 Hz, 1'-H), 4.63 (1H, m, 2'-H), 4.81 (1H, ddd, J=11.3 Hz, 9.4 Hz and 4.4 Hz, 4'-H), 5.16 (2h, s, D2O exchangeable, 2-NH2), 7.96 (1H, 8-H) and 8.67 (1H, s, 6-H). Found: C, 48.15; H, 5.23; N, 21.51%. C13H17N5O5Requires C, 48.29; H, 5.30; N, 21.66%.

reactant | 2-amino-9-(1,4-dihydroxybut-2-oxy)purine | 0.42 mmol, 100 mg | NC1=NC=C2N=CN(C2=N1)OC(CO)CCO | C9H13N5O3
reactant | acetic anhydride | 1.5 mmol, 0.14 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | methanol | 0.5 ml | CO | CH4O
reactant | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
catalyst | 4-dimethylaminopyridine | 4 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-amino-9-(1,4-diacetoxybut-2-oxy)purine | 112 mg, 83% | NC1=NC=C2N=CN(C2=N1)OC(COC(C)=O)CCOC(C)=O | C13H17N5O5
